US07723518B2
In a reaction vessel equipped with a dropping funnel and a reverse water-separator, 2-amino-3-hydroxypyridine (110.12 g; 1 mol) was added to chlorobenzene (1500 ml) at room temperature. 2-Acetylbutyrolactone (134.53 g; 1.05 mol) was added dropwise to this mixture from the dropping funnel while stirring. The dropping funnel was rinsed with chlorobenzene (250 ml) and the resulting solution was added dropwise to the previously obtained mixture. Next, p-toluenesulfonic acid monohydrate (5.7 g; 0.03 mol) was added, and the resulting mixture was heated to reflux temperature (refluxing starting at 125° C.). The reaction mixture was refluxed for 19 hours, while the water liberated during the course of the reaction was collected in the reverse water-separator. The mixture was allowed to cool to about 80° C. and then there were added 2-propanol (250 ml), activated carbon (Norit A™ supra, 25 g) and filter agent (dicalite speed plus; 2.5 g). The mixture was heated to reflux (100° C.) during 30 minutes. The reaction mixture was filtered at a temperature of 90 to 95° C. and the filter cake was washed with chlorobenzene (100 ml; 80° C.). The combined filtrate was allowed to cool to room temperature. Crystallization of the reaction product started at about 40-45° C. and was left to continue for 18 hours at room temperature. The crystals were collected and washed with chlorobenzene (100 ml) and dried in vacuo at 50-60° C. for 24 hours, yielding 164.2 g (73.6%) 9-hydroxy-3-(2-hydroxyethyl)-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one; mp 150° C.; purity >97% (LC % w/w); residual 2-amino-3-hydropyridine: 0.85%; sum of other impurities <0.52%; residual 2-acetylbutyrolactone was 0% (GC % w/w).

reactant | 2-amino-3-hydroxypyridine | 1 mol, 110.12 g | NC1=NC=CC=C1O | C5H6N2O
reactant | chlorobenzene | 1500 ml | ClC1=CC=CC=C1 | C6H5Cl
reactant | 2-Acetylbutyrolactone | 1.05 mol, 134.53 g | C(C)(=O)C1C(=O)OCC1 | C6H8O3
catalyst | p-toluenesulfonic acid monohydrate | 0.03 mol, 5.7 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | water | O | H2O
product | 9-hydroxy-3-(2-hydroxyethyl)-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | 164.2 g, 73.6% | OC1=CC=CN2C1=NC(=C(C2=O)CCO)C | C11H12N2O3
